US07973012B2
(2) Preparation of (1S)-1-[5-[4-[3-[[amino(imino)methyl]amino]propyl]benzyl]-2-hydroxy-4-methylphenyl]-1,5-anhydro-D-glucitol
To a methanol (2.6 mL)-ethyl acetate (1.3 mL) mixture solution of (1S)-1-[5-[4-[(1E)-3-[[benzyloxy carbonyl amino(benzyloxycarbonylimino)methyl]amino]prop-1-en-1-yl]benzyl]-2-(benzyloxy)-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-benzyl-D-glucitol (154 mg, 0.131 mmol) was added 20% palladium hydroxide (160 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature overnight. The reaction solution was filtered through celite, and evaporated under reduced pressure to obtain a residue. Thus obtained residue was dissolved in methanol (1.5 mL). And 20% palladium hydroxide (63 mg) was added thereto, and the mixture was stirred under a hydrogen atmosphere at room temperature for 2 days. The reaction solution was filtered through celite, and evaporated under reduced pressure to obtain a residue. Thus obtained residue was purified with silica gel column chromatography (ethyl acetate:ethanol:water=10:2:1 then 5:2:1, and then ethanol:water=10:1) to obtain the title compound (38 mg, 63%) as a colorless powder. NMR data and MS data of the compound are shown in Table 1.

reactant | ethyl acetate | 1.3 mL | C(C)(=O)OCC | C4H8O2
reactant | (1S)-1-[5-[4-[(1E)-3-[[benzyloxy carbonyl amino(benzyloxycarbonylimino)methyl]amino]prop-1-en-1-yl]benzyl]-2-(benzyloxy)-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-benzyl-D-glucitol | 0.131 mmol, 154 mg | C(C1=CC=CC=C1)OC(=O)NC(=NC(=O)OCC1=CC=CC=C1)NC/C=C/C1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)[C@H](OCC3=CC=CC=C3)[C@H](O2)COCC2=CC=CC=C2)OCC2=CC=CC=C2)C)C=C1 | C75H73N3O10
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium hydroxide | 160 mg | [OH-].[Pd+2].[OH-]
catalyst | palladium hydroxide | 63 mg | [OH-].[Pd+2].[OH-]
solvent | methanol | 2.6 mL | CO | CH4O
product | (1S)-1-[5-[4-[3-[[amino(imino)methyl]amino]propyl]benzyl]-2-hydroxy-4-methylphenyl]-1,5-anhydro-D-glucitol | 38 mg, 63% | NC(=N)NCCCC1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)O)C)C=C1 | C24H33N3O6
